US08242280B2
380 mg (0.64 mmol) of 2,2-dimethyl-propionic acid 5-{3-[hydroxy-(3-trifluoromethyl-pyridin-2-yl)-methyl]-phenyl}-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester was dissolved in hot ethanol. 0.5 ml (450 mg, 7.5 mmol) of ethylene diamine was added and the mixture diluted with 2 M aqueous sodium hydroxide (30% v/v). The resulting mixture was gently heated until all material was dissolved and the solution left at room temperature for 16 h. The pH was adjusted to 8 by addition of concentrated aqueous hydrochloric acid and the resulting solution was distributed between chloroform and saturated aqueous sodium bicarbonate. The aqueous layer was extracted three times with chloroform. The combined organic phases were dried over sodium sulfate and evaporated. The residue was purified by mass-triggered reverse-phase HPLC to afford 12 mg (25 μmol, 4%) of {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-trifluoromethyl-pyridin-2-yl)-methanol as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 13.83 (s, 1H), 8.86 (d, 1H), 8.79 (s, 1H), 8.28 (d, 1H), 7.79 (s, 1H), 7.66 (d, 1H), 7.62 (d, 1H), 7.54 (dd, 1H), 7.47 (t, 1H), 7.43 (t, 1H), 7.35 (d, 1H), 7.24 (d, 1H), 7.10 (t, 1H), 6.23 (d, 1H), 6.10 (d, 1H), 3.85 (s, 3H); MS: m/z 477.1 (M+H+).

reactant | 2,2-dimethyl-propionic acid 5-{3-[hydroxy-(3-trifluoromethyl-pyridin-2-yl)-methyl]-phenyl}-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 0.64 mmol, 380 mg | OC(C=1C=C(C=CC1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COC(C(C)(C)C)=O)C2=NC=CC=C2C(F)(F)F | C32H29F3N4O4
reactant | ethylene diamine | 7.5 mmol, 0.5 ml, 450 mg | C(CN)N | C2H8N2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-trifluoromethyl-pyridin-2-yl)-methanol | 25 μmol, 12 mg, 4% | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)C(O)C2=NC=CC=C2C(F)(F)F | C26H19F3N4O2
